US07923450B2
b) [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-(2-methoxy-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-amine
A suspension of [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea (43 mg, 0.16 mmol) and of crude 2-bromo-6-phenyl-cyclohexanone (49 mg, 0.17 mmol) in ethanol (2 mL) was heated to reflux under an atmosphere of nitrogen for 2 days. After cooling to room temperature the solvent was evaporated under reduced pressure and the residue was purified by reversed preparative HPLC using acetonitril/water (0.1% formic acid) to yield the title compound (15 mg, 21%) as a yellow gum. MS ISP (m/e): 447.3 (100) [(M+H)+]. 1H NMR (CDCl3, 300 MHz): δ (ppm)=7.59 (s, 1H), 7.29 (s, 1H), 7.07-7.18 (m, 2H), 6.82-6.88 (m, 4H), 6.65 (d, 1H), 4.49 (m, 1H), 3.84 (s, 3H), 3.57 (s, 3H), 2.89 (m, 2H), 2.88 (s, 3H), 2.14 (m, 1H), 1.70-1.91 (m, 3H).

reactant | [3-methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-thiourea | 0.16 mmol, 43 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)NC(=S)N | C12H14N4OS
reactant | 2-bromo-6-phenyl-cyclohexanone | 0.17 mmol, 49 mg | BrC1C(C(CCC1)C1=CC=CC=C1)=O | C12H13BrO
reactant | ethanol | 2 mL | C(C)O | C2H6O
product | [3-Methoxy-4-(4-methyl-imidazol-1-yl)-phenyl]-[4-(2-methoxy-phenyl)-4,5,6,7-tetrahydro-benzothiazol-2-yl]-amine | 15 mg, 21% | COC=1C=C(C=CC1N1C=NC(=C1)C)NC=1SC2=C(N1)C(CCC2)C2=C(C=CC=C2)OC | C25H26N4O2S
